US04410534
N,N-dimethyl-1-butyl-pyrrole-2-carboxamide.
Likewise, by the method of part B of this Preparation, pyrrole-2-carbonyl chloride, obtained as described by R. J. Boatman et al., in J. Org. Chem. 41, p. 3050 (1976), is converted into N,N-dimethylpyrrole-2-carbox-amide, m.p. 100.5°-102° C.

reactant | pyrrole-2-carbonyl chloride | N1C(=CC=C1)C(=O)Cl | C5H4ClNO
reactant | N,N-dimethylpyrrole-2-carbox-amide | CN(C(=O)C=1NC=CC1)C | C7H10N2O
product | N,N-dimethyl-1-butyl-pyrrole-2-carboxamide | CN(C(=O)C=1N(C=CC1)CCCC)C | C11H18N2O
